data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202401225.json
{"doi": "10.1002_adsc.202401225", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical dual trifluoromethylation/cyclization of 2-aryl-N-acryloyl indoles with CF3SO2Na to afford bis-trifluoromethylated indolo[2,1-a]isoquinolinones.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF3SO2Na to a trifluoromethanesulfonyl radical that loses SO2 to give CF3 radical; later anodic oxidations of cyclized C-radicals generate cationic intermediates that lose H+ to rearomatize/form product.", "key_intermediates": [{"name": "trifluoromethanesulfonyl radical (CF3SO2•)", "smiles": "[O-]S(=O)(=O)C(F)(F)F", "role": "transient"}, {"name": "trifluoromethyl radical (CF3•)", "smiles": "[CH](F)(F)F", "role": "reactive"}, {"name": "carbon radical A (CF3 adduct on acryloyl C=C)", "smiles": null, "role": "reactive"}, {"name": "cyclized C3-indolyl radical B (after intramolecular radical addition onto indole C3)", "smiles": null, "role": "reactive"}, {"name": "cationic intermediate C (oxidation of B)", "smiles": null, "role": "transient"}, {"name": "mono-CF3 indolo[2,1-a]isoquinolinone intermediate 5 (after deprotonation)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical D after second CF3• addition", "smiles": null, "role": "reactive"}, {"name": "cation E (anodic oxidation of D)", "smiles": null, "role": "transient"}, {"name": "bis-CF3 indolo[2,1-a]isoquinolinone 3a (product)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2− to CF3SO2• which extrudes SO2 to give CF3•; CF3• adds to the acryloyl alkene of 1a, the resulting C-radical cyclizes onto the indole C3 to give radical B, which is anodically oxidized to cation C and deprotonated to neutral mono-CF3 intermediate 5; a second CF3• adds to the styrene-like alkene of 5 to give benzylic radical D, anodic oxidation to cation E followed by deprotonation furnishes 3a.", "rate_determining_step": "Intramolecular radical cyclization of A onto the indole (TS2, ΔG‡ = 19.1 kcal/mol).", "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction completely suppressed; DPE-CF3SO2 adduct 4 detected by ESI-MS, implicating CF3SO2• as a radical intermediate."}, {"name": "no-current control", "smiles": null, "purpose": "other", "observation": "Without electricity essentially no reaction occurred; electricity is indispensable."}, {"name": "reaction quench at 2 h", "smiles": null, "purpose": "intermediate_trap", "observation": "Mono-CF3 intermediate 5 detected by ESI-MS, supporting stepwise dual trifluoromethylation."}, {"name": "cyclic voltammetry of 2a vs 1a", "smiles": null, "purpose": "redox_probe", "observation": "CF3SO2Na oxidation onset at 1.80 V vs Ag/AgCl, lower than 1a (1.97 V), indicating preferential anodic oxidation of CF3SO2− to generate CF3•."}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "DFT", "isolation_of_intermediate", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Mechanism supported by DFT (wB97XD/def2TZVPP, CPCM-MeCN) including TS1 (CF3• addition, 10.5 kcal/mol), TS2 (radical cyclization, 19.1 kcal/mol, rate-determining), TS3 (second CF3• addition, 9.1 kcal/mol), and Hirshfeld spin-density analysis tracking spin-center migration from CF3 carbon to β-carbon during each addition/cyclization step. Single-crystal X-ray of 3a confirms regiochemistry. Substrate with CHF2SO2Na failed, suggesting sensitivity to radical stability of the perfluoroalkyl source."}
